*$
* UC1825
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UC1825
* Date: 10SEP2018
* Model Type: Transient
* Simulator: TINA
* Simulator Version: 9.3.150.328 SF-TI
* EVM Order Number:
* EVM Users Guide:
* Datasheet:
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
*
* 
*****************************************************************************
*$
.SUBCKT UC1825_TRANS OUT_B OUT_A ILIM-SD RAMP CT GND Vcc VC VREF NI INV E-A_OUT CLOCK 
+ RT GND SS 
IS1         GND SS 9U
VS1         VDD GND 5
V4          RAMP 22 1.25
V3          25 GND 9
V2          26 GND 1
V1          28 GND 1.4
XU8         CLOCK VDD CT RT GND RC_CLK_0
XU9         VREF 10 NOT_0
+ PARAMS: VDD=5 VSS=0 VTHRESH=1.75 
XU15        11 10 SD OR2_0
R1          SS GND 556K 
XU4         12 PWM_LATCH1 SD OUT_A VC NOR3_0
XU11        15 12 PWM_LATCH1 PWM_LATCH1 T-FF_0
XU17        15 PWM_LATCH1 SD OUT_B VC NOR3_0
XU7         17 CLOCK PWM_LATCH1 OR2_0
XU5         19 18 20 OR2_0
QT1         SS SD GND  Q__NPN_N_1 
XU16        E-A_OUT 22 19 VDD GND COMPARATOR_0
XU21        20 CLOCK 17 24 SRLATCHSHP_BASIC_GEN_0
+ PARAMS: VDD=5 VSS=0 VTHRESH=0.5
XU3         25 Vcc VREF VDD GND COMPARATOR_0
XU2         26 ILIM-SD 18 VDD GND COMPARATOR_0
XU6         28 ILIM-SD 11 VDD GND COMPARATOR_0
XU1         E-A_OUT VDD NI INV SS GND ERRAMP_0

.MODEL Q__NPN_N_1 NPN( IS=12.6F NF=991M NR=991M RE=305M RC=1 
+      RB=10 VAF= 1.00000000000000E+0030 VAR= 1.00000000000000E+0030 ISE=0 ISC=0 
+      ISS=0 NE=1.5 NC=1.5 NS=1 BF=100 
+      BR=5 IKF=0 IKR=0 CJC=10.4P CJE=14.8P 
+      CJS=0 VJC=100M VJE=100M VJS=750M MJC=278M 
+      MJE=237M MJS=0 TF=531P TR=69N EG=1.11 
+      KF=0 AF=1 )
.ENDS UC1825_TRANS
*$
.SUBCKT RC_CLK_0 CLOCK VDD CT RT GND
V1          36 GND 1
V10         38 GND 2.8
V9          37 GND 3
XU5         32 CT GND DPST_SWITCH_0
R2          32 CLOCK 10K 
XU21        34 35 CLOCK z SRLATCHSHP_BASIC_GEN_0
+ PARAMS: VDD=5 VSS=0 VTHRESH=0.5
XU1         CT 36 35 VDD GND COMPARATOR_1
VCCCS2_in   37 RT
FCCCS2      GND CT VCCCS2_in   700M
XU19        CT 38 34 VDD GND COMPARATOR_2
.ENDS RC_CLK_0
*$
.SUBCKT T-FF_0 Q QB T CLK
V1          50 0 5
XU2         Q T 51 XOR2_0
+ PARAMS: VDD=5 VSS=0 VTHRESH=0.5 
XU1         Q QB T 51 50 50 DFFSBRB_SHPBASIC_GEN_0
+ PARAMS: VDD=5 VSS=0 VTHRESH=0.5
.ENDS T-FF_0
*$
.SUBCKT ERRAMP_0 EAOUT VREF EA_IN+ EA_IN- SSTART GND
XU1         VREF 86 EA_OUT SSTART EAOUT 0 SPDT_SWITCH_0
XU3         SSTART EA_OUT 86 VREF 0 COMPARATOR_3
XU6         EA_IN- EA_IN+ EA_OUT VREF 0 EA_LIMIT_VDD_0
.ENDS ERRAMP_0
*$
.SUBCKT NOT_0  A Y PARAMS: VDD=5 VSS=0 VTHRESH=1.75
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1P
.ENDS NOT_0 
*$
.SUBCKT OR2_0  A B Y PARAMS: VDD=5 VSS=0 VTHRESH=1.75
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > 1.5  |  
+ V(B) > 1.5,5,0)}}
RINT YINT Y 1
CINT Y 0 5N
.ENDS OR2_0 
*$
.SUBCKT NOR3_0  A B C Y VC PARAMS: VDD=3.5 VSS=0 VTHRESH=1.75
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > 1.75  |  
+ V(B) > 1.75  |  
+ V(C) > 1.75,0,V(VC))}}
RINT YINT Y 1
CINT Y 0 5N
.ENDS NOR3_0 
*$
.SUBCKT COMPARATOR_0  IN+ IN- OUT VDD GND
E_ABM OUT GND VALUE = {IF (V(IN+) < V(IN-), 5,0)}
.ENDS COMPARATOR_0  
*$
**SET HAS HIGHER PRIORITY IN THIS LATCH
.SUBCKT SRLATCHSHP_BASIC_GEN_0  S R Q QB PARAMS: VDD=5 VSS=0 VTHRESH=0.5 
GQ 0 QINT VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R)>{VTHRESH},-5, 0))}
CQINT QINT 0 1N
RQINT QINT 0 1000MEG
XD_D10 QINT MY5 D_D1
V1 MY5 0 {VDD}
XD_D11 MYVSS QINT D_D1
V2 MYVSS 0 {VSS} 
EQ QQQ 0 QINT 0 1
X3 QQQ QQQD1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQQ QQQD1 Q 1
EQB QBR 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQB QBR QB 1 
CDUMMY1 Q 0 1N 
CDUMMY2 QB 0 1N 
.IC V(QINT) {VSS}
.ENDS SRLATCHSHP_BASIC_GEN_0 
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1N
.ENDS BUF_BASIC_GEN
*$
.SUBCKT D_D1 A C
D1 A C DNOM
.MODEL DNOM D (TT=10P CJO=1E-18 IS=1E-15 RS=1E-3 N=1E-3)
.ENDS D_D1
*$
.SUBCKT DPST_SWITCH_0  CTRL IN OUT PARAMS : VTHRESH = 0.5
E_CTRLS1 CTRL_S1 0 VALUE = { IF(V(CTRL)>{VTHRESH} , 5.0, 0 )}
S_S1 IN OUT CTRL_S1 0 SWITCH
.MODEL SWITCH VSWITCH ROFF=1MEG RON=100 VOFF=0.2V VON=2.0V
.ENDS DPST_SWITCH_0 
*$
.SUBCKT COMPARATOR_1  IN+ IN- OUT VDD GND
E_ABM OUT GND VALUE = {IF (V(IN+) < V(IN-), V(VDD),0)}
.ENDS COMPARATOR_1  
*$
.SUBCKT COMPARATOR_2  IN+ IN- OUT VDD GND
E_ABM OUT GND VALUE = {IF (V(IN+) > V(IN-), V(VDD),0)}
.ENDS COMPARATOR_2  
*$
.SUBCKT XOR2_0  A B Y PARAMS: VDD=3.5 VSS=0 VTHRESH=1.75
XNAND1 A B N1 NAND2 PARAMS: VDD=5 VSS=0 VTHRESH=1
XNAND2 A N1 N2 NAND2 PARAMS: VDD=5 VSS=0 VTHRESH=1
XNAND3 B N1 N3 NAND2 PARAMS: VDD=5 VSS=0 VTHRESH=1
XNAND4 N2 N3 Y NAND2 PARAMS: VDD=5 VSS=0 VTHRESH=1
RINT YINT Y 1
CINT Y 0 1N
.ENDS XOR2_0 
*$
.SUBCKT NAND2 A B Y PARAMS: VDD=5 VSS=0 VTHRESH=1.75
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1P
.ENDS NAND2
*$
.SUBCKT DFFSBRB_SHPBASIC_GEN_0  Q QB CLK D RB SB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
***SET HAS HIGHER PRIORITY IN THIS
** CHANGED THE DELAY FROM 7N/10N TO 15N/20N TO HELP LARGER TIME STEP SIMULATIONS
**FASTER FLIP-FLOPS REQUIRE A A SMALLER TIME STEP TO SIMULATE
X1 CLK CLKDEL INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15N
X2 CLK CLKDEL CLKINT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 QINT VALUE = {IF(V(SB) < {VTHRESH},5,IF(V(RB)<{VTHRESH},-5, IF(V(CLKINT)> {VTHRESH}, 
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQINT QINT 0 1N
RQINT QINT 0 1000MEG
D_D10 QINT MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS QINT D_D1
V2 MYVSS 0 {VSS} 
EQ QQQ 0 QINT 0 1
X3 QQQ QQQD1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20N
RQQ QQQD1 Q 1
EQB QBR 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQB QBR QB 1 
CDUMMY1 Q 0 1NF 
CDUMMY2 QB 0 1NF 
.IC V(QINT) {VSS}
.ENDS DFFSBRB_SHPBASIC_GEN_0 
*$
*NEEDED MODULES:
**********************************************************************
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10N 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1N
.ENDS INV_DELAY_BASIC_GEN
*$
******************************************************
.SUBCKT D_D 1 2
D1 1 2 DD
.MODEL DD D
+ IS=1E-015
+ N=0.01
+ TT=1E-011
.ENDS D_D
*$
.MODEL D_D1 D( IS=1E-15 TT=10P RS=0.05 N=.1  )
*$

******************************************************************************
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1N
.ENDS AND2_BASIC_GEN
******************************************************************
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10N 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1N
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT SPDT_SWITCH_0  EN CTRL IN1 IN2 OUT GND PARAMS : VTHRESH = 0.5
RGND GND 0 0.01
E_CTRLS1 CTRL_S1 0 VALUE = { IF(V(CTRL)>{VTHRESH} , 5.0, 0 )}
E_CTRLS2 CTRL_S2 0 VALUE = { IF(V(CTRL)>{VTHRESH} , 0, 5.0 )}
E_CTRL_OUT CTRL_OUT 0 VALUE = {IF(V(EN)>{VTHRESH},5.0,0)}
S_S1 IN1 OUT1 CTRL_S1 0 SWITCH
S_S2 IN2 OUT1 CTRL_S2 0 SWITCH
S_OUT OUT1 OUT CTRL_OUT 0 SWITCH
.MODEL SWITCH VSWITCH ROFF=10E9 RON=0.01 VOFF=0.2V VON=2.0V
.ENDS SPDT_SWITCH_0 
*$
.SUBCKT COMPARATOR_3  INP INM Y VDD GND
RGND GND 0 0.01
E_ABM YINT1 0 VALUE {IF (V(INP) > V(INM), V(VDD),V(GND))}
R1 YINT1 Y 1
C1 Y 0 1P
.ENDS COMP_BASIC_GEN
*$
.SUBCKT EA_LIMIT_VDD_0  IN+ IN- OUT VDD GND
E_EAOUT OUT1 GND IN- IN+ 100K
E_ABM1 OUT2 GND VALUE = {IF (V(OUT1) > V(VDD), V(VDD),V(OUT1))}
E_ABM2 OUT GND  VALUE = {IF (V(OUT2) < V(GND), V(GND),V(OUT2))}
.ENDS EA_LIMIT_VDD_0 
*$